US06689922B1
3-{2-[3-(7-Hydroxy-7-methyloctyl)phenyl]vinyl}phenol
In a manner similar to Example 3(i), by reacting 207 mg (0.46 mmol) of 8-(3-{2-[3-(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-2-methyloctan-2-ol with 0.5 ml of tetrabutylammonium fluoride 1M/THF, after purification on a silica column (ethyl acetate 30-heptane 70), a white powder (m=203 mg; Y=32%) is obtained. m.p.=142-3° C.

reactant | 8-(3-{2-[3-(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-2-methyloctan-2-ol | 0.46 mmol, 207 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C=CC=1C=C(C=CC1)CCCCCCC(C)(O)C | C29H44O2Si
reactant | tetrabutylammonium fluoride | 1M, 0.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 3-{2-[3-(7-Hydroxy-7-methyloctyl)phenyl]vinyl}phenol | OC(CCCCCCC=1C=C(C=CC1)C=CC=1C=C(C=CC1)O)(C)C | C23H30O2
